US06489344B1
6-[(2-{[6-(2,4-dichlorophenyl)-5-imidazol-2-yl-2-pyridyl]amino}ethyl)amino]pyridine-3-carbonitrile was prepared from 6-[(2-aminoethyl)amino]pyridine-3-carbonitrile using the general method for [6-(2,4-dichlorophenyl)-5-imidazol-2-yl(2-pyridyl)]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 6-[(2-aminoethyl)amino]pyridine-3-carbonitrile | NCCNC1=CC=C(C=N1)C#N | C8H10N4
reactant | [6-(2,4-dichlorophenyl)-5-imidazol-2-yl(2-pyridyl)]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=N1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C=1NC=CN1 | C21H17Cl2N7O2
product | 6-[(2-{[6-(2,4-dichlorophenyl)-5-imidazol-2-yl-2-pyridyl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=N1)NCCNC1=CC=C(C=N1)C#N)C=1NC=CN1 | C22H17Cl2N7
